US05650410
A mixture of ethyl 2-chloromethyl-6,7-dimethoxy-4-(2-methoxyphenyl)quinoline-3-carboxylate (1.0 g), morpholine (1.25 g) and ethanol (13 ml) was stirred at room temperature for 3 days. The precipitated crystals were separated by filtration and recrystallized from ethyl acetate-hexane to give ethyl 6,7-dimethoxy-4-(2-methoxyphenyl)-2-morpholinomethylquinoline-3-carboxylate (0.76 g, 68%). Colorless prisms, mp. 153°-154° C.

reactant | ethyl 2-chloromethyl-6,7-dimethoxy-4-(2-methoxyphenyl)quinoline-3-carboxylate | 1.0 g | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=C(C=CC=C1)OC)OC)OC | C22H22ClNO5
reactant | morpholine | 1.25 g | N1CCOCC1 | C4H9NO
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | ethyl 6,7-dimethoxy-4-(2-methoxyphenyl)-2-morpholinomethylquinoline-3-carboxylate | 0.76 g, 68% | COC=1C=C2C(=C(C(=NC2=CC1OC)CN1CCOCC1)C(=O)OCC)C1=C(C=CC=C1)OC | C26H30N2O6
